US07429605B2
iii) 3-Chloromethyl-5-(4-trifluoromethoxy-phenyl)-pyridine
136 mg (0.083 ml, 1.14 mmol) thionyl chloride were added drop by drop at 0° C. to a solution of 0.1 ml N,N-dimethylformamide (DMF) and 153 mg (0.57 mmol) [5-(4-Trifluoromethoxy-phenyl)-pyridin-3-yl]-methanol in 10 ml dichloromethane and stirred for 2 h at 0° C. The mixture was poured on ice/sodium bicarbonate solution and the organic phase separated. The water phase is extracted with dichloromethane. The combined organic phases were washed with water, dried (sodium sulphate), evaporated and the obtained material (156 mg, 89%) used without further purification.

reactant | thionyl chloride | 1.14 mmol, 0.083 ml, 136 mg | S(=O)(Cl)Cl | Cl2OS
reactant | N,N-dimethylformamide | 0.1 ml | CN(C=O)C | C3H7NO
reactant | [5-(4-Trifluoromethoxy-phenyl)-pyridin-3-yl]-methanol | 0.57 mmol, 153 mg | FC(OC1=CC=C(C=C1)C=1C=C(C=NC1)CO)(F)F | C13H10F3NO2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 3-Chloromethyl-5-(4-trifluoromethoxy-phenyl)-pyridine | ClCC=1C=NC=C(C1)C1=CC=C(C=C1)OC(F)(F)F | C13H9ClF3NO
